
// Differential Operational Amplifier Characterization Testbench
// CMRR
simulator lang=spectre
global 0

//parameters vdd=3.3 cload=2pf
parameters w1 = {w1}  l1 = {l1}  w2 = {w2}  l2 = {l2}  w3 = {w3}  l3 = {l3}  w4 = {w4}  l4 = {l4}	w5 = {w5}  l5 = {l5}   cc={cc}  cr={cr}  

// the circuit
include    "/home/shunqidai/Sizing/SizingDemoLinuxSpectre/smic018/ckt_netlist/twoStageOpamp2.scs" 

// the power supply 3.3 V and current bias
vdd    (dd  0)   vsource  dc=vdd     type=dc
ibias  (dd net7) isource  dc={ib}    type=dc

// the input signal for dc and tran simulation
vin    (inn  out)   vsource   dc=0   	type=dc		mag=1
vip    (inp  cm)    vsource   dc=0   	type=dc		mag=1
vcm    (cm   0)     vsource   dc=vdd/2  type=dc	

// the circuit 
Xopamp (dd 0 inp inn net7 out)  diff_opamp
cl 	   (out 0) 					capacitor  c=cload

// Sprctre Analyses and Output Options
// Output Options
simulatorOptions options 
+    reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 
+    tnom=27 scalem=1.0 scale=1.0e-6 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 
+    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" 
+    checklimitdest=psf 

// Analyses
old_data_output_filename ac start=0.1 stop=100e9 dec=10 annotate=status 
saveOptions options save=allpub subcktprobelvl=2

// end of file

